US06462198B1
N-(5-Ethyl-[1,3,4]oxadiazol-2-yl)-2,2-diphenyl-acetamide.
The title compound, white solid, m.p. 123-125° C. and MS: m/e=308.2 (M+H+) was prepared in accordance with the general method of example 48a from 1-(3,5-dimethyl-pyrazol-1-yl)-2,2-diphenyl-ethanone and 5-ethyl-[1,3,4]oxadiazol-2-ylamine.

reactant | 1-(3,5-dimethyl-pyrazol-1-yl)-2,2-diphenyl-ethanone | CC1=NN(C(=C1)C)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18N2O
reactant | 5-ethyl-[1,3,4]oxadiazol-2-ylamine | C(C)C1=NN=C(O1)N | C4H7N3O
product | N-(5-Ethyl-[1,3,4]oxadiazol-2-yl)-2,2-diphenyl-acetamide | C(C)C1=NN=C(O1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H17N3O2
